US07893062B2
2-(3,5-Bis-trifluoromethyl-phenyl)-N-[(3S,4R)-1-(4-methoxymethyl-cyclohexanecarbonyl)-4-phenyl-pyrrolidin-3-yl]-N-methyl-isobutyramide
To a stirred solution of 4-methoxymethyl-cyclohexanecarboxylic acid (described in JP60258141) (7.4 mg, 0.043 mmol) in THF (2 ml) at RT were added Et3N (12 μl, 0.086 mmol), BOP (25 mg, 0.057 mmol) and rac-2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-N-((3S,4R)-4-phenyl-pyrrolidin-3-yl)-isobutyramide (Intermediate VII-1) (20 mg, 0.043 mmol). Stirring was continued at 40° C. for 48 hours. Concentration and purification by preparative HPLC afforded 12.7 mg (48%) of the title compound.

reactant | 4-methoxymethyl-cyclohexanecarboxylic acid | 0.043 mmol, 7.4 mg | COCC1CCC(CC1)C(=O)O | C9H16O3
reactant | Et3N | 0.086 mmol, 12 μl | CCN(CC)CC | C6H15N
reactant | BOP | 0.057 mmol, 25 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | rac-2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-N-((3S,4R)-4-phenyl-pyrrolidin-3-yl)-isobutyramide | 0.043 mmol, 20 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N([C@@H]1CNC[C@H]1C1=CC=CC=C1)C)(C)C)(F)F | C23H24F6N2O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 2-(3,5-Bis-trifluoromethyl-phenyl)-N-[(3S,4R)-1-(4-methoxymethyl-cyclohexanecarbonyl)-4-phenyl-pyrrolidin-3-yl]-N-methyl-isobutyramide | 12.7 mg, 48% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)[C@@H]1CN(C[C@H]1C1=CC=CC=C1)C(=O)C1CCC(CC1)COC)(C)C)(F)F | C32H38F6N2O3
